US09233104B2
A solution of 3-chloro-2-nitro-aniline (CXXI) (1.0 g, 5.8 mmol), potassium carbonate (2.4 g, 17.4 mmol), and 4-methylimidazole in dry DMF was heated overnight at 120° C. under nitrogen. The reaction was cooled and the solvent was evaporated in vacuo. The residue was suspended in a saturated NaHCO3 solution and extracted with CH2Cl2. The combined organic phases were dried over MgSO4 and concentrated in vacuo. The crude product was purified by flash chromatography to provide 3-(4-methyl-imidazol-1-yl)-2-nitro-phenylamine (CXXIX). 1H NMR (CDCl3, 400 MHz) δ ppm 2.19 (s, 3H), 6.53 (m, 1H), 6.79 (m, 1H), 6.93 (m, 1H), 7.32 (m, 1H), 7.60 (m, 1H).

reactant | 3-chloro-2-nitro-aniline | 5.8 mmol, 1.0 g | ClC=1C(=C(N)C=CC1)[N+](=O)[O-] | C6H5ClN2O2
reactant | potassium carbonate | 17.4 mmol, 2.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-methylimidazole | CC=1N=CNC1 | C4H6N2
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-(4-methyl-imidazol-1-yl)-2-nitro-phenylamine | CC=1N=CN(C1)C=1C(=C(C=CC1)N)[N+](=O)[O-] | C10H10N4O2
